US08067598B2
2-Methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
To a solution of 740 mg 2-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-6,7-dihydro-thieno[3,2-c]pyridine in 7.4 mL methanol was added portion wise 82 mg (2.17 mmol) NaBH4 at room temperature. The mixture was stirred at room temperature for 30 minutes, cooled in an ice bath and quenched with water and 1N HCl. The methanol was removed in vacuo and the residue stirred in water. The mixture was basified with a 2M Na2CO3 solution and extracted with dichloromethane. The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified on silica eluting with a gradient formed from heptane and ethyl acetate. The product containing fractions were evaporated to yield 630 mg (87%; over two steps) of the title compound as yellow oil. MS(m/e): 326.1 (MH+).

reactant | 2-methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-6,7-dihydro-thieno[3,2-c]pyridine | 740 mg | CC1=CC=2C(=NCCC2S1)CCC1=CC=C(C=C1)C(F)(F)F | C17H16F3NS
reactant | NaBH4 | 2.17 mmol, 82 mg | [BH4-].[Na+]
solvent | methanol | 7.4 mL | CO | CH4O
product | 2-Methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | CC1=CC=2C(NCCC2S1)CCC1=CC=C(C=C1)C(F)(F)F | C17H18F3NS
